US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1S)-2-ethoxy-1-(hydroxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
To a solution of N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-(ethoxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide, (product from step v) (0.79 g) in THF (10 mL) was added a 1M solution of tetrabutylammoniumfluoride in THF (2.4 mL) with stirring, at ambient temperature, for 72 h. The reaction mixture was diluted with H2O and extracted with EtOAc (×2). The organic layer was washed with H2O then brine and dried (MgSO4), filtered and evaporated. The resulting oil was purified by reverse phase HPLC (symmetry as the stationary phase and TFA/acetonitrile as the mobile phase) then titurated with DCM followed by ether/iso-hexane to give the title compound as a white solid. Yield: 0.28 g

reactant | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-(ethoxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)O[C@@H](CO[Si](C)(C)C(C)(C)C)COCC | C25H38F2N4O5S2Si
reactant | tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1S)-2-ethoxy-1-(hydroxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)O[C@H](COCC)CO | C19H24F2N4O5S2
